* Ideal Comparator
Vin_p inp 0 PULSE(0 2 0 1u 1u 1m 2m)
Vref inn 0 DC 1
Ecmp out 0 inp inn 1e6
Rload out 0 10k
.tran 1u 5m

.control
set noaskquit
save all
run
.endc

.end

